US07122545B2
0.049 g of 1H-Imidazole-2-carbothioic acid (4-methoxy-biphenyl-3-yl)-amide (0.16 mmol) was taken up in chloroform and treated with 8.1 μl of Br2 (0.16 mmol) for 4 h at reflux. Then the reaction was quenched with sodium thiosulfate (38%) and extracted with chloroform. The combined organic phases were dried on sodium sulfate, filtered and evaporated. The residue was subjected to column chromatography (silica gel, methylene chloride/methanol 40:1) to yield 0.016 g of 2-(1H-imidazol-2-yl)-4-methoxy-7-phenyl-benzothiazole (33%) as a colorless solid; M.p.: 205–206° C.

reactant | 1H-Imidazole-2-carbothioic acid (4-methoxy-biphenyl-3-yl)-amide | 0.16 mmol, 0.049 g | COC1=C(C=C(C=C1)C1=CC=CC=C1)NC(=S)C=1NC=CN1 | C17H15N3OS
reactant | Br2 | 0.16 mmol, 8.1 μl | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(1H-imidazol-2-yl)-4-methoxy-7-phenyl-benzothiazole | 0.016 g, 33% | N1C(=NC=C1)C=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C17H13N3OS
